US04024264
PREPARATION 7: 1-ACETYL-4-BROMO-4-(p-FLUOROBENZOYL)PIPERIDINE
A solution of 36 g. (0.145 mole) of 1-acetyl-4-(p-fluorobenzoyl)piperidine in 175 ml of chloroform was treated with fifteen ml. of bromine. The mixture was heated at reflux for one hour and was then allowed to stand overnight at room temperature 1-Acetyl-4-bromo-4-(p-fluorobenzoyl)piperidine hydrobromide precipitated and was collected by filtration and recrystallized from ethanol. Yield: 40.6 g., melting point 156°-159° C. In exactly the same manner, additional intermediates of this type are produced by substituting the selected starting materials from PREPARATION 2 in the procedure of PREPARATION 7.

reactant | 1-acetyl-4-(p-fluorobenzoyl)piperidine | 0.145 mole | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C14H16FNO2
reactant | bromine | BrBr | Br2
solvent | chloroform | 175 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-ACETYL-4-BROMO-4-(p-FLUOROBENZOYL)PIPERIDINE | C(C)(=O)N1CCC(CC1)(C(C1=CC=C(C=C1)F)=O)Br | C14H15BrFNO2
